US06969725B2
In analogy to the procedure described in example 1 f], (2S)-2-ethoxy-3-(4-hydroxy-2,6-dimethyl-phenyl)-propionic acid methyl ester (example 29 e]) was reacted with 4-chloromethyl-2-(4-fluoro-3-methyl-phenyl)-5-methyl-oxazole (example 5 b]) in the presence of cesium carbonate and potassium iodide to yield (S)-2-ethoxy-3-{4-[2-(4-fluoro-3-methyl-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2,6-dimethyl-phenyl}-propionic acid methyl ester as colorless liquid.

reactant | (2S)-2-ethoxy-3-(4-hydroxy-2,6-dimethyl-phenyl)-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1C)O)C)OCC)=O | C14H20O4
reactant | 4-chloromethyl-2-(4-fluoro-3-methyl-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=CC(=C(C=C1)F)C | C12H11ClFNO
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | (S)-2-ethoxy-3-{4-[2-(4-fluoro-3-methyl-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2,6-dimethyl-phenyl}-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1C)OCC=1N=C(OC1C)C1=CC(=C(C=C1)F)C)C)OCC)=O | C26H30FNO5
